US05859051
Step 2: Preparation of methyl 3-chloro-4-aminophenylacetate.
A solution of 3-chloro-4-acetamidophenylacetic acid (180 grams, 0.79 moles) in methanol (2 L), was treated with concentrated HCl (200 mL) and the resulting solution refluxed for 6 hours and then stirred at room temperature for 16 hours. The mixture was concentrated in vacuo to about one-half its volume and ether (4 L) was added. The resulting precipitate was filtered, washed with ether and dried to give the title compound (173 grams) as a tan solid NMR, (CD3OD): δ3.70 (s, 2H); 3.73 (s, 3H); 7.35 (d, 1H); 7.43 (d, 1H); 7.56 (s, 1H).

reactant | 3-chloro-4-acetamidophenylacetic acid | 0.79 moles, 180 grams | ClC=1C=C(C=CC1NC(C)=O)CC(=O)O | C10H10ClNO3
reactant | HCl | 200 mL | Cl | ClH
reactant | methanol | 2 L | CO | CH4O
product | methyl 3-chloro-4-aminophenylacetate | 173 grams | ClC=1C=C(C=CC1N)CC(=O)OC | C9H10ClNO2
